US06388134B1
To a solution of 8.7 ml (79.85 mmol) aminoacetaldehyde dimethylacetal in 60 ml toluene at reflux is added dropwise a solution of 10 g (31.94 mmol) 4-(6-bromohexyloxy)butylbenzene in 40 ml toluene. After maintaining the reaction mixture under reflux for 4 hr, toluene is evaporated off under reduced pressure, and 50 ml CH2Cl2 is added thereto. The resulting solution is stirred for 15 min together with a solution of 20 ml 47% HBr diluted with 20 ml H2O. The reaction mixture is allowed to decant and the crude product obtained as a result of evaporating the CH2Cl2 phase to dryness is triturated with Et2O and filtered, thereby affording 4.31 g (32.3%) N-dimethoxyethyl-6-(4-phenylbutoxy)hexylamine hydrobromide.

reactant | aminoacetaldehyde dimethylacetal | 79.85 mmol, 8.7 ml | COC(CN)OC | C4H11NO2
reactant | 4-(6-bromohexyloxy)butylbenzene | 31.94 mmol, 10 g | BrCCCCCCOCCCCC1=CC=CC=C1 | C16H25BrO
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | N-dimethoxyethyl-6-(4-phenylbutoxy)hexylamine hydrobromide | 4.31 g, 32.3% | Br.COC(CNCCCCCCOCCCCC1=CC=CC=C1)OC | InChI=1S/C20H35NO3.BrH/c1-22-20(23-2)18-21-15-9-3-4-10-16-24-17-11-8-14-19-12-6-5-7-13-19;/h5-7,12-13,20-21H,3-4,8-11,14-18H2,1-2H3;1H
